US06992103B2
(3R,5S)-5-((S)-1-Amino-2-phenylethyl)-3-methyldihydrofuran-2-one (D48)
A solution of [(S)-1-(4-methyl-5-oxo-tetrahydrofuran-2-yl)-2-phenylethyl]-carbamic acid t-butyl ester (synthesis described in Journal of Organic Chemistry (1986) 51(21), 3921) (2 g, 6.27 mmol) in DCM (40 ml) was treated with trifluoroacetic acid (5 ml) for 2 h. The solvent was evaporated under reduced pressure, the residue dissolved in DCM, washed with aqueous sodium bicarbonate and dried (Na2SO4). The solvent was evaporated to afford the title compound (D48) as a pale yellow solid (1.25 g)

reactant | [(S)-1-(4-methyl-5-oxo-tetrahydrofuran-2-yl)-2-phenylethyl]-carbamic acid t-butyl ester | 6.27 mmol, 2 g | C(C)(C)(C)OC(N[C@@H](CC1=CC=CC=C1)C1OC(C(C1)C)=O)=O | C18H25NO4
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
product | (3R,5S)-5-((S)-1-Amino-2-phenylethyl)-3-methyldihydrofuran-2-one | N[C@@H](CC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)C | C13H17NO2
